US05580887
1-[4-[2-[4-(6-Chloro-1H-indazol-3-yl)-1-piperazinyl]ethoxy]-3-methoxyphenyl]-ethanone
A mixture of 6-chloro-[3-(1-piperazinyl)]-1H-indazole (2.1 g, 8.9 mmol), K2CO3 (1.5 g, 10.7 mmol), KI (100 mg), 1-[4-(2-chloroethoxy)-3-methoxyphenyl]ethanone (2.2 g, 9.8 mml) and acetonitrile (70 ml) was stirred at reflux for 48 hours under N2The cooled reaction was poured into water and the aqueous mixture was extracted with ethyl acetate. The organic extract was washed with water, dried with MgSO4 and concentrated to yield 6.0 of a light yellow oil. The oil was purified by preparative HPLC (Waters Associates prep LC/System 500, employing 2 silica gel columns and 5.5% methanol/methylene chloride as eluent). Concentration of later fractions provided 1.6 g of an off-white solid. This was combined with an additional sample (3.4 g total) and two consecutive recrystallizations from ethanol yielded 2.1 g (23%) of 1-[4-[2-[4-(6-chloro-1H-indazol-3-yl)-1-piperazinyl]ethoxy]-3-methoxyphenphenyl]ethanone as an off-white solid, m.p.=154°-156° C.

reactant | 6-chloro-[3-(1-piperazinyl)]-1H-indazole | 8.9 mmol, 2.1 g | ClC1=CC=C2C(=NNC2=C1)N1CCNCC1 | C11H13ClN4
reactant | K2CO3 | 10.7 mmol, 1.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[4-(2-chloroethoxy)-3-methoxyphenyl]ethanone | 2.2 g | ClCCOC1=C(C=C(C=C1)C(C)=O)OC | C11H13ClO3
reactant | acetonitrile | 70 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-[4-[2-[4-(6-Chloro-1H-indazol-3-yl)-1-piperazinyl]ethoxy]-3-methoxyphenyl]-ethanone | 1.6 g | ClC1=CC=C2C(=NNC2=C1)N1CCN(CC1)CCOC1=C(C=C(C=C1)C(C)=O)OC | C22H25ClN4O3
